datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].C[N+](C)(C)[BH2-:11][H:10]>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[H:10].C[N+](C)(C)[BH2:11] 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([C:11](C)=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[Si:63](C)(C)[O:12][C:11](C)=[CH2:10].CN1CC[C:20](=[O:21])CC1>>CN1CC[C:20]([CH2:10][C:11](C)=[O+:12][Si:63](C)(C)C(C)(C)C)([O-:21])CC1 10,11=10,20;12=11,12;20,21=21"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>C[Si:63](C)(C)[O+:12]=[C:11]1CCCC[CH:10]1[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCC[C:11]2=[NH+:12][C:63](C)=[O:64])[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10](C1CCCCC1)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12"
"C1CC[N:12]([C:11]2=[CH:10]C[C:63]3=[C:62]2[CH:73]=[CH:74][CH:65]=[CH:64]3)C1.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([CH:10]1C[C:63]2=[C:62]([C:11]1=[N+:12]1CCCC1)[CH:73]=[CH:74][CH:65]=[CH:64]2)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"C[C:61]#[N:10].O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:61]#[N+:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[C:63]([NH:12][C:11](C1=CC=C(Cl)C=C1)=[CH2:10])=[O:64]>>C[C:63]([NH+:12]=[C:11](C1=CC=C(Cl)C=C1)[CH2:10][CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1)=[O:64] 10,11=10,20;12=11,12"
"C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.[CH2:20]=[CH:21][C:22]#[N:23]>>C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.[H:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[CH:10]2[CH:11]=[N+:12](C)[C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl>>C[C+:11]([CH2:10][CH:20](C1=CC=CC=C1)[CH:21]=[C:22]=[N-:23])[CH2:62][Si:63](Cl)(Cl)Cl 10,11=10,20;20,21=21,22;22,23=23"
